US07381719B2
Part A: 2-Benzo[b]thiophen-3-ylethylamine
Reduce benzo[b]thiophen-3-yl-acetonitrile (350.9 mg, 2.0 mmol) in Et2O (6.0 mL) with 1.0 M LAH in THF (6.0 mL) at 0-10° C. for 1 hour. Carry out Fieser work-up to remove the LAH. Concentrate and pass through an SCX column, washing with MeOH and then eluting with 2.0 M NH3 in MeOH. Concentrate the eluant and purify twice by chromatography, eluting with 75:20:5 EtOAc/hexanes/2.0 M NH3 in MeOH and then with 70:20:10 EtOAc/hexanes/2.0 M NH3 in MeOH to yield the title compound (86.5 mg, 24%): MS ES+ 178.2 (M+H)+, 161.2 (base peak); 1H NMR (DMSO-d6) δ 7.94 (d, J=7.3 Hz, 1H), 7.81 (d, J=7.8 Hz, 1H), 7.40-7.33 (m, 3H), 3.32 (br s, 2H), 2.88 (br s, 4H).

reactant | benzo[b]thiophen-3-yl-acetonitrile | 2.0 mmol, 350.9 mg | S1C2=C(C(=C1)CC#N)C=CC=C2 | C10H7NS
reactant | LAH | 1.0 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Et2O | 6.0 mL | CCOCC | C4H10O
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
product | 2-Benzo[b]thiophen-3-ylethylamine | 86.5 mg, 24% | S1C2=C(C(=C1)CCN)C=CC=C2 | C10H11NS
